US07795262B2
Step 1. Preparation of tert-butyl 4-pyrrolidin-1-yl-3,6-dihydropyridine-1(2H)-carboxylate
A mixture of Boc-4-piperidone (5.5 g, 27.6 mmol), pyrrolidine (2.42 ml, 29 mmol) and PTSA (30 mg) in cyclohexane (30 mL) is refluxed overnight with a Dean-Stark trap to remove water. The mixture is cooled to rt and the solvent is removed in vacuo and the thick oil obtained is used in the next step without further purification.

reactant | Boc-4-piperidone | 27.6 mmol, 5.5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
reactant | pyrrolidine | 29 mmol, 2.42 ml | N1CCCC1 | C4H9N
reactant | PTSA | 30 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | cyclohexane | 30 mL | C1CCCCC1 | C6H12
product | tert-butyl 4-pyrrolidin-1-yl-3,6-dihydropyridine-1(2H)-carboxylate | N1(CCCC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C14H24N2O2
